US07524847B2
4-[7-(2-Butynyl)-2-chloro-9-methyl-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester
7-(2-Butynyl)-2,6-dichloro-9-methyl-7,9-dihydropurin-8-one (334 mg) was dissolved in acetonitrile (5 mL), piperazin-1-carboxylic acid t-butyl ester (300 mg) and triethylamine (190 μL) were added, and this reaction solution was stirred at room temperature for 96 hours. After completion of the reaction, 1 N hydrochloric acid (3 mL) and water (10 mL) were added to the reaction solution, and this was extracted with ethyl acetate. The obtained organic layer was washed sequentially with water and saturated brine, and dried over anhydrous magnesium sulfate. The resulting organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3) to give the title compound (312 mg).

reactant | 7-(2-Butynyl)-2,6-dichloro-9-methyl-7,9-dihydropurin-8-one | 334 mg | C(C#CC)N1C(N(C2=NC(=NC(=C12)Cl)Cl)C)=O | C10H8Cl2N4O
reactant | piperazin-1-carboxylic acid t-butyl ester | 300 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 190 μL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N, 3 mL | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | 4-[7-(2-Butynyl)-2-chloro-9-methyl-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester | 312 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N(C(N(C2=NC(=N1)Cl)C)=O)CC#CC | C19H25ClN6O3
